US04018933
19.4 g of 3-amidinophenoxyacetic acid were heated under reflux, while well stirring, for 2 hours with 70 ml of thionyl chloride. After cooling, filtration with suction and washing with anhydrous diethyl ether, 21 g of 3-amidinophenoxyacetic acid chloride hydrochloride were obtained; decomposition point 149° to 151° C.

reactant | 3-amidinophenoxyacetic acid | 19.4 g | C(N)(=N)C=1C=C(OCC(=O)O)C=CC1 | C9H10N2O3
reactant | thionyl chloride | 70 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-amidinophenoxyacetic acid chloride hydrochloride | 21 g | Cl.C(N)(=N)C=1C=C(OCC(=O)Cl)C=CC1 | InChI=1S/C9H9ClN2O2.ClH/c10-8(13)5-14-7-3-1-2-6(4-7)9(11)12;/h1-4H,5H2,(H3,11,12);1H
